US09169259B2
A mixture of methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate (200 mg, 0.6 mmol), (R)-6-(2-methylpyrrolidin-1-yl)pyridin-2-amine (160 mg, 0.9 mmol), Pd2(dba)3 (36 mg, 0.06 mmol), BINAP (152 mg, 0.24 mmol), Cs2CO3 (592 mg, 1.8 mmol) and dioxane (10 mL) was heated to 100° C. with stirring for 16 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give (R)-methyl 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridine-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (110 mg, 43%) as a yellow solid. LC-MS: [M+H]+, 429.1, tR=2.064 min.

reactant | methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate | 0.6 mmol, 200 mg | BrC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C14H10BrN3O2
reactant | (R)-6-(2-methylpyrrolidin-1-yl)pyridin-2-amine | 0.9 mmol, 160 mg | C[C@H]1N(CCC1)C1=CC=CC(=N1)N | C10H15N3
reactant | BINAP | 0.24 mmol, 152 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 1.8 mmol, 592 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.06 mmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-methyl 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridine-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 110 mg, 43% | C[C@H]1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C24H24N6O2
